US07714009B2
N4,N4-Dipropylpyridine-2,4-diamine
To 0.235 g (0.66 mmol) of N2-diphenylmethylene-N4,N4-dipropylpyridine-2,4-diamine in 9 mL of methanol was added 0.13 g (1.6 mmol) of sodium acetate followed by 0.082 g (1.2 mmol) of hydroxylamine hydrochloride. The resulting clear golden reaction mixture was stirred at room temperature for 45 min and concentrated in vacuo. The crude solids were slurried in dichloromethane, filtered and the filtrate was concentrated. The resulting oil was purified by flash chromatography eluting with a 13% to 20% methanol/dichloromethane gradient containing 2% triethylamine to give 0.106 g (83%) of the title compound as a white solid.

reactant | N2-diphenylmethylene-N4,N4-dipropylpyridine-2,4-diamine | 0.66 mmol, 0.235 g | C1(=CC=CC=C1)C(=NC1=NC=CC(=C1)N(CCC)CCC)C1=CC=CC=C1 | C24H27N3
reactant | sodium acetate | 1.6 mmol, 0.13 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 1.2 mmol, 0.082 g | Cl.NO
solvent | methanol | 9 mL | CO | CH4O
product | N4,N4-Dipropylpyridine-2,4-diamine | 0.106 g, 83% | C(CC)N(C1=CC(=NC=C1)N)CCC | C11H19N3
